US04113724
5-Chloro-6-[(3-methylphenyl)thio]-2,3-pyrazinedicarbonitrile
Pyridine (2.37 g) was mixed rapidly with a solution of 6.00 g of 2,3-dichloro-5,6-dicyanopyrazine in 240 ml of 1,2-dichloroethane. After 15 minutes the well stirred mixture, protected from moisture, was cooled to -30° and 3.72 g of m-thiocresol was added in one portion. The temperature was maintained at -30° for 0.5 hour and then was allowed to return to ambient over the course of 2 hours. The mixture was then washed with water to remove pyridine hydrochloride, dried over MgSO4, and concentrated on a rotary evaporator to a solid residue. The residue was purified by the technique of dry column chromatography using silica gel adsorbent and 1-chlorobutane as solvent and eluent. The yield of pure product was 6.9 g, mp 117°-119°.

reactant | Pyridine | 2.37 g | N1=CC=CC=C1 | C5H5N
reactant | 2,3-dichloro-5,6-dicyanopyrazine | 6.00 g | ClC1=NC(=C(N=C1Cl)C#N)C#N | C6Cl2N4
reactant | m-thiocresol | 3.72 g | CC1=CC(=CC=C1)S | C7H8S
solvent | 1,2-dichloroethane | 240 ml | ClCCCl | C2H4Cl2
product | 5-Chloro-6-[(3-methylphenyl)thio]-2,3-pyrazinedicarbonitrile | ClC=1N=C(C(=NC1SC1=CC(=CC=C1)C)C#N)C#N | C13H7ClN4S
